US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (500 mg, 1.05 mmol), 4-carboxylphenylboronic acid (350 mg, 2.12 mmol) and 100 mg of tetrakis(triphenylphosphine)palladium(0) in 50 mL of ethylene glycol dimethyl ether and 35 mL of saturated aqueous sodium bicarbonate is heated at reflux for 1 hour. The reaction mixture is cooled to room temperature and partitioned between water and ethyl acetate. The organic layer is washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a gradient of chloroform to 10% methanol in chloroform to provide 4-{6-cyano-7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-2-yl}benzoic acid as yellow crystals, mp>300° C.; 1H NMR (DMSO-d6) δ 3.86 (s, 3H), 7.40 (s, 1H), 7.78 (s, 1H), 7.86 (d, J=8 Hz, 2H), 8.03 (d, J=8 Hz, 2H), 8.03 (s, 1H), 8.08 (s, 1H), 8.64 (s, 1H), 9.80 (s, 1H), 13.14 (s, 1H); MS 470.2 (M+H)+.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 1.05 mmol, 500 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | 4-carboxylphenylboronic acid | 2.12 mmol, 350 mg | B(C1=CC=C(C=C1)C(=O)O)(O)O | C7H7BO4
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
solvent | sodium bicarbonate | 35 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{6-cyano-7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-2-yl}benzoic acid | C(#N)C=1C(=C2C(=NC1)C=C(S2)C2=CC=C(C(=O)O)C=C2)NC2=C(C=C(C(=C2)OC)Cl)Cl | C22H13Cl2N3O3S
